US07001900B2
DBU (2.36 mL, 15.2 mmol) and methyl{[(benzyloxy)carbonyl]amino}(dimethoxyphosphoryl)acetate (5.02 g, 15.2 mmol) are dissolved in CH2Cl2 (75 mL). The resulting solution is added drop-wise to a solution of 4-chlorophthalaldehyde (2.31 g, 13.8 mmol) in CH2Cl2 (100 mL) at 0° C. The reaction is stirred for 1 hour at 0° C. and then for 18 hours at rt. The volatiles are evaporated to yield a yellow oil, which is dissolved in CHCl3 (10 mL). DBU (2.36 mL, 15.2 mmol) and TFAA (2.15 mL, 15.2 mmol) are added. The reaction is stirred under N2 for 3 hours and is quenched with 150 mL of saturated NaHCO3 solution. The organic layer is separated, and the aqueous layer is extracted with 2×150 mL of CHCl3. The combined organic layers are dried (MgSO4), filtered, and concentrated to a yellow oil. This mixture is purified by column chromatography using a step gradient of 25% to 45% EtOAc in hexanes in 5% increments. Product containing fractions are concentrated, dissolved in MeOH and loaded onto a column of AGW-×2 resin (H+ form). The column is rinsed with MeOH, and the product is eluted with a solution of 5% TEA in MeOH. The product is concentrated from MeOH/MeCN several times to yield methyl 6-chloroisoquinoline-3-carboxylate as a white solid in 67% purity by HPLC (0.810 g).

reactant | DBU | 15.2 mmol, 2.36 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl{[(benzyloxy)carbonyl]amino}(dimethoxyphosphoryl)acetate | 15.2 mmol, 5.02 g | COC(C(P(=O)(OC)OC)NC(=O)OCC1=CC=CC=C1)=O | C13H18NO7P
reactant | 4-chlorophthalaldehyde | 13.8 mmol, 2.31 g | ClC=1C=C(C(C=O)=CC1)C=O | C8H5ClO2
reactant | DBU | 15.2 mmol, 2.36 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | TFAA | 15.2 mmol, 2.15 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-chloroisoquinoline-3-carboxylate | ClC=1C=C2C=C(N=CC2=CC1)C(=O)OC | C11H8ClNO2
